US07544838B2
4-[N′-(3,5-Bis-trifluoromethyl-benzylidene)-hydrazino]-6-chloro-[1,3,5]triazin-2-ol (DY176)
To a solution of 4-chloro-6-hydrazino-[1,3,5]triazin-2-ol (0.13 g, 0.0008 mol) and 3,5-bis(trifluoromethyl)benz aldehyde (0.39 g, 0.0016 mol) in abs. EtOH (10 mL), was added 1 drop of acetic acid. The reaction mixture was refluxed for 5 hours. The reaction mixture was cooling to room temperature and concentrated to remove solvent. The resulting residue was solidified by EtOAc to give red solid 0.21 g, in 72% yield, mp: 258.3° C. 1H NMR (DMSO-d6) δ 11.15 (s, 1H), 8.97 (s, 1H), 8.54 (s, 1H), 7.59 (s, 1H), 7.30 (s, 2H). 13C NMR (DMSO-d6) δ 179.0, 160.2, 149.8, 148.8, 128.3, 127.6, 125.4, 124.7.

reactant | 4-chloro-6-hydrazino-[1,3,5]triazin-2-ol | 0.0008 mol, 0.13 g | ClC1=NC(=NC(=N1)NN)O | C3H4ClN5O
reactant | 3,5-bis(trifluoromethyl)benz aldehyde | 0.0016 mol, 0.39 g | FC(C=1C=C(C=O)C=C(C1)C(F)(F)F)(F)F | C9H4F6O
catalyst | acetic acid | 1 drop | C(C)(=O)O | C2H4O2
solvent | EtOH | 10 mL | CCO | C2H6O
product | 4-[N′-(3,5-Bis-trifluoromethyl-benzylidene)-hydrazino]-6-chloro-[1,3,5]triazin-2-ol | 0.21 g, 72% yield | FC(C=1C=C(C=NNC2=NC(=NC(=N2)Cl)O)C=C(C1)C(F)(F)F)(F)F | C12H6ClF6N5O
